US06919315B1
1-(tert-Butoxycarbonyl)piperidine-4-carboxylic acid (8.0 g, 35 mmol) was dissolved in dichloromethane (70 ml) and N,N-dimethylformamide (35 ml). 1-Hydroxy-7-azabenzotriazole (4.75 g, 35 mmol) was added. The solution was cooled to 0° C. N-3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (6.69 g, 35 mmol) was added. The reaction mixture was stirred for 20 min at 0° C. A 5.6 M solution of dimethylamine in ethanol (37 ml, 209 mmol) was added. The reaction mixture was stirred for 3 days, while it was warming up to room temperature. It was diluted with ethyl acetate (400 ml) and washed with a 10% aqueous solution of sodium hydrogen sulfate (400 ml). The aqueous phase was extracted with ethyl acetate (2×200 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (300 ml) and dried over magnesium sulfate. The solvent was removed in vacua. The crude product was purified by flash chromatography on silica (300 g), using dichloromethane/methanol 20:1 as eluent, to give 4.56 g of 4-(dimethylcarbamoyl)piperidine-1-carboxylic acid tert-butyl ester.

reactant | 1-(tert-Butoxycarbonyl)piperidine-4-carboxylic acid | 35 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 35 mmol, 4.75 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N′-ethylcarbodiimide hydrochloride | 35 mmol, 6.69 g | Cl.C(C)N=C=N
reactant | dimethylamine | CNC | C2H7N
reactant | ethanol | 209 mmol, 37 ml | C(C)O | C2H6O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4-(dimethylcarbamoyl)piperidine-1-carboxylic acid tert-butyl ester | 4.56 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)C)=O | C13H24N2O3
